US05344828
4-(2-Chlorodibenzo[b,f][1,4]thiazepin-11-yl)-1-piperazinepropionic acid
2N Aqueous sodium hydroxide solution (5 ml) was added to a solution of 2.15 g of ethyl 4-(2-chlorodibenzo[b,f][1,4]thiazepin-11-yl)-1-piperazinepropionate in 22 ml of methanol. The solution was refluxed for 30 min and then concentrated. The residue was dissolved in hot water and the solution was neutralized with 0.5N hydrochloric acid. The precipitates were collected by filtration to give 1.84 g of pale yellow crystals, which were recrystallized from aqueous ethanol to give pale yellow crystals, mp 120°-121° C.

reactant | sodium hydroxide | 2N, 5 ml | [OH-].[Na+]
reactant | ethyl 4-(2-chlorodibenzo[b,f][1,4]thiazepin-11-yl)-1-piperazinepropionate | 2.15 g | ClC=1C=CC2=C(C(=NC3=C(S2)C=CC=C3)N3CCN(CC3)CCC(=O)OCC)C1 | C22H24ClN3O2S
solvent | methanol | 22 ml | CO | CH4O
product | 4-(2-Chlorodibenzo[b,f][1,4]thiazepin-11-yl)-1-piperazinepropionic acid | 1.84 g | ClC=1C=CC2=C(C(=NC3=C(S2)C=CC=C3)N3CCN(CC3)CCC(=O)O)C1 | C20H20ClN3O2S
